US05229403
3.0 g of N-(3-nitro-5-trifluoromethyl-2-pyridyl)ethanesulfonamide was suspended in a solvent mixture comprising 30 ml of water and 30 ml of acetic acid, and 2.2 g of reduced iron was added thereto. Then, the mixture was heated to 50° C. and reacted for one hour. After completion of the reaction, the reaction product was cooled to room temperature, and excess iron was separated by filtration. The filtrate was extracted with ethyl acetate. The extract layer was washed with water and dried. Ethyl acetate was distilled off under reduced pressure to obtain 2.5 g of N-(3-amino-5-trifluoromethylethyl-2-pyridyl)ethanesulfonamide.

reactant | N-(3-nitro-5-trifluoromethyl-2-pyridyl)ethanesulfonamide | 3.0 g | [N+](=O)([O-])C=1C(=NC=C(C1)C(F)(F)F)NS(=O)(=O)CC | C8H8F3N3O4S
reactant | water | 30 ml | O | H2O
reactant | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | N-(3-amino-5-trifluoromethylethyl-2-pyridyl)ethanesulfonamide | 2.5 g | NC=1C(=NC=C(C1CC)C(F)(F)F)NS(=O)(=O)CC | C10H14F3N3O2S
